US07411079B2
Myristic acid/palmitic acid, 200 cc. of 85% phosphoric acid and 1800 ml. of hexane were mixed, heated to reflux and then 251 grams of cetyl alcohol added in 30 min. The mixture was refluxed further for 8 hours. Then the hot mixture consisted of a muddy acid layer and a opaque solvent layer which could not be separated by decantation or filtration. The mixture was further diluted with three volumes of hexane causing the slushy hexane layer to further soften enough to be separated from aqueous layer. The hexane layer was then cooled to bring about crystallization of fatty ester. The weight of cetyl myristate isolated was 294 grams which had a melting point of 54-59° C. The conversion, based on the cetyl alcohol used, was 63.71%.

reactant | Myristic acid palmitic acid | C(CCCCCCCCCCCCC)(=O)O.C(CCCCCCCCCCCCCCC)(=O)O
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | cetyl alcohol | 251 grams | C(CCCCCCCCCCCCCCC)O | C16H34O
solvent | hexane | CCCCCC | C6H14
product | cetyl myristate | C(CCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCCCC | C30H60O2
